US07220744B2
a) 1-(5-Methyl-4-trifluoromethyl-thiazol-2-yl)-piperazine
Prepared in analogy to example 49 (a) from 1-piperazinecarbothioamide and 3-bromo-1,1,1-trifluoro-2-butanone. The crude material was purified by chromatography (SiO2, methanol/dichloromethane) to yield the title compound as a white crystalline solid (yield 25%). MS (m/e): 252.1 (M+H+, 100%).

reactant | 1-piperazinecarbothioamide | N1(CCNCC1)C(N)=S | C5H11N3S
reactant | 3-bromo-1,1,1-trifluoro-2-butanone | BrC(C(C(F)(F)F)=O)C | C4H4BrF3O
product | 1-(5-Methyl-4-trifluoromethyl-thiazol-2-yl)-piperazine | yield 25% | CC1=C(N=C(S1)N1CCNCC1)C(F)(F)F | C9H12F3N3S
